2191-05-20 09:04:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pleurex cathter that is
   coninuously producing 400cc/day.  She is s/p a an open J tube placed.
   She had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleuxex.
   While on the floor, she has been doing well. Open Gtube was placed by
   surgery on [**2191-5-16**], and she was started on TF on [**5-18**]. Her chest tube
   remained in place as there continued to be 300-400 cc clear drainage
   daily. The team was screening her for rehab. However, today, she went
   into afib with RVR with HR in 140's, developed a worsening oxygen
   requirement (from 2-3L NC to 70% HiFlow mask) to keep sats in mid to
   high 90's. She had reportedly received IVF boluses the previous night
   for low UOP. On the floor, she received lopressor 2.5 mg IV X 2 with
   improvement of HR to 100's. She recived 20 IV lasix with 800 cc UOP.
   She also received 2 mg IV morphine.
   Upon arrival to the ICU, she is not talking and appears uncomfortable.
   She cannot relate any further history.
   24 Hour Events:
   Spiked fever and has secretions.
 PICC LINE - START [**2191-5-19**] 03:33 PM
 FEVER - 101.7
F - [**2191-5-20**] 04:00 AM
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2191-5-20**] 12:50 AM
   Metoprolol - [**2191-5-20**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-20**] 08:00 AM
   Other medications:
   amiodarone
   metformine 850 [**Hospital1 **]
   perphenazine 6mg po qday
   asa 325 qday
   [**Doctor First Name **]
   PPI qday
   MVI
   Valproic acid oral tid
   hep5K
   Lidocaine patch
   lopressor 12.5 Q 6hr
   saline flush
   Ipratoprium-Prn received 1 dose
   neb
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-20**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.5
C (99.5
   HR: 110 (103 - 126) bpm
   BP: 97/71(77) {80/42(55) - 160/119(122)} mmHg
   RR: 34 (22 - 36) insp/min
   SpO2: 98%  Still on 70% but per report 92-93% off O2
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    756 mL
                                                                    670 mL
   PO:
             TF:
                                                                    406 mL
                                                                    427 mL
   IVF:
                                                                    250 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    770 mL
   Urine:
                                                                    845 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
                                                      300cc from yesterday
   Balance:
                                                                   -889 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.43/53/68/35/8
   PaO2 / FiO2: 97
   Physical Examination
   Gen: Arousable, mild respiratory distress
   HEENT: PERRL, OP dry moist membranes, JVP flat, PERRL
   Heart: [**Last Name (un) 1920**] [**Last Name (un) 1920**] s1s2 no m/r/g
   Lungs: No wheeze or rales poor air movent central rhocni.
   Abd: Binder on, +BS, soft, NT
   Ext: No c/c/e
   Neuro: Oriented to person, improved MS.
   [**Name13 (STitle) 358**] / Radiology:  X-ray unchanged
   8.1 g/dL
   288 K/uL
   128 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.3 mEq/L
   25 mg/dL
   96 mEq/L
   136 mEq/L
   25.7 %
   13.0 K/uL
        [image002.jpg]
   ABG   7.43/53/68
   VBG   7.51/45/94
                             [**2191-5-19**]  04:43 PM
                             [**2191-5-20**]  12:10 AM
                             [**2191-5-20**]  04:02 AM
   WBC
   13.0
   Hct
   25.7
   Plt
   288
   Cr
   0.5
   0.6
   TCO2
   36
   Glucose
   148
   128
   Other [**Year (4 digits) **]: PT / PTT / INR:13.0/36.4/1.1, Differential-Neuts:73.0 %,
   Band:4.0 %, Lymph:10.0 %, Mono:9.0 %, Eos:4.0 %, Lactic Acid:1.7
   mmol/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   UA small leuks, [**6-22**] wbc no bacteria Cx pending
   Sputum-
   Pleural fluid LDH 354
   Blood-
   Urine-
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (400cc/day past 24 hrs).  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns today
   after receiving IV fluids on the floor, going into afib with RVR and
   desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR this
   occurred in the setting of IV fluids
   -Will amiodarone load and start drip with goal of removing beta
   blockade.
   -Will transition to PO amiodarone
   -Continue dig if she does not completely respond to amiodarone
   #Fever-and slight bandemia
   -Pan cultured
   -Started on empiric Vanc/Zosyn for coverage
   -Would not diuresis
   # Hypoxic Respiratory Failure: suspect related to RVR and flash edema.
   If hypoxemia does not respond to rate control will consider PE in
   differential.
   - goal even today
   -Will repeat ABG and VBG
   -Getting TTE with Bubble
   -If negative and she does not return to her baseline with rate control
   will start IV heparin.
   # Altered mental status: per team, yesterday, she was still able to
   communicate with team, at times disoriented. Earlier, she was somnolent
   but this was in the setting of narcotics. Currently improving MS.
   - check ABG to make sure she is not retaining
   - hold sedating meds
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place.
   -Tube continues to drain >100cc per day.
   - continue pigtail to water seal
 would consider clamping over weekend
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube may be an option. Will discuss with IP.
   # Borderline hypotension- Her blood pressures have been running in the
   80's-90's systolic during her admission, asymptomatic. Here, blood
   pressure has been 100s recently, stable
   - Will try to decrease metoprolol with goal to stop if rate controlled
   on amiodarone.
   - no further interventions if asymptomatic
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-20**] 01:59 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:  PPI if indication otherwise will d
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition :ICU. Patient is critically ill.
   Total time spent: 33 minutes

2191-05-21 07:39:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing 400cc/day.  She is s/p a an open J tube placed.
   She had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleuxex.
   While on the floor, she has been doing well. Open Gtube was placed by
   surgery on [**2191-5-16**], and she was started on TF on [**5-18**]. Her chest tube
   remained in place as there continued to be 300-400 cc clear drainage
   daily. The team was screening her for rehab. However, today, she went
   into afib with RVR with HR in 140's, developed a worsening oxygen
   requirement (from 2-3L NC to 70% HiFlow mask) to keep sats in mid to
   high 90's. She had reportedly received IVF boluses the previous night
   for low UOP. On the floor, she received lopressor 2.5 mg IV X 2 with
   improvement of HR to 100's. She recived 20 IV lasix with 800 cc UOP.
   She also received 2 mg IV morphine.
   Upon arrival to the ICU, she is not talking and appears uncomfortable.
   She cannot relate any further history.
   24 Hour Events:
   Transitioned to PO amiodarone yesterday.
   Hypoxemic requiring 70% FM
 now down to 35% FM.
   TTE with bubble done:  ASD PFO noted.  Dilated RV suggestive of PE
   heparin gtt started empirically.
   Lasix gtt started o/n but now held due to marginal BP.  TBB +1L since
   yesterday.
   MS continues to was and wanes.
   Chest tube clamped -> no re-accumulation of effusion.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-20**] 10:00 AM (day 3)
   Piperacillin - [**2191-5-21**] 12:00 AM (day 3)
   Infusions:
   Furosemide (Lasix) - 2 mg/hour- off
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-20**] 02:00 PM
   Heparin Sodium - [**2191-5-20**] 07:00 PM
   Metoprolol - [**2191-5-21**] 01:38 AM
   Other medications:
   amiodarone 400 tid
   asa
   fexofenadine
   mvit
   depakote
   lidocaine patch
   lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-21**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 111 (89 - 123) bpm
   BP: 116/46(62) {83/26(44) - 134/74(78)} mmHg
   RR: 30 (23 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,253 mL
                                                                    682 mL
   PO:
             TF:
                                                                  1,128 mL
                                                                    359 mL
   IVF:
                                                                    735 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,252 mL
                                                                    365 mL
   Urine:
                                                                  1,072 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,001 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.44/54/77/34/10
   PaO2 / FiO2: 220
   Physical Examination
   GEN: Alert, answering simple questions, NAD
   Skin:  Not assessed
   Neurologic:  Right pupuil 3mm; left 2mm.  EOMI
   CV: irregular, no m/r/g
   LUNGS: exam limited but CTA at apices.  Left CT wrapped behid occlusive
   dressing.
   ABD: soft, NT
   EXT: +1 edema.
   Labs / Radiology
   8.2 g/dL
   299 K/uL
   108 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.1 mEq/L
   30 mg/dL
   95 mEq/L
   137 mEq/L
   26.8 %
   18.3 K/uL
        [image002.jpg]
                             [**2191-5-19**]  04:43 PM
                             [**2191-5-20**]  12:10 AM
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
   WBC
   13.0
   18.3
   Hct
   25.7
   26.8
   Plt
   288
   299
   Cr
   0.5
   0.6
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   148
   128
   138
   108
   Other labs: PT / PTT / INR:14.4/140.3/1.3, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:67.0 %, Band:8.0 %, Lymph:6.0 %,
   Mono:18.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL,
   LDH:213 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL, vanco
   level for tomorrow., cdiff negative [**5-20**].
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (400cc/day past 24 hrs).  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns today
   after receiving IV fluids on the floor, going into afib with RVR and
   desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR this
   occurred in the setting of IV fluids
   - currently in aflutter.  Will continue with po amiodarone and
   decrease lopressor given marginal BP.
   #Fever-and slight bandemia
   -Pan cultured
   -Vanc/Zosyn started [**5-19**] for coverage
   -Repeat sputum culture.
   # Hypoxic Respiratory Failure:
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE.
   - resend sputum cultures; continue vanco and zosyn for now (day 3)
   - Unclamp CT transiently to evaluate possibility of re-caccumulation of
   pleural effusion.
   - transition to lovenox
 coumadin.  There is an indication for
   anticoagulation for afib.  Will not do confirmatory testing for PE.
   # Altered mental status: per team, yesterday, she was still able to
   communicate with team, at times disoriented. Earlier, she was somnolent
   but this was in the setting of narcotics. Currently improving MS.
   - hold sedating meds.
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place.
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube may be an option. Will discuss with IP.
   # Borderline hypotension- Her blood pressures have been running in the
   80's-90's systolic during her admission, asymptomatic. Here, blood
   pressure has been 100s recently, stable
   - check for RAI- morning cortisol.
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-20**] 11:12 PM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU, pt is critically ill
   Total time spent: 30 minutes

2191-05-22 07:37:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pleurex cathter that is
   coninuously producing 400cc/day.  She is s/p a an open J tube placed.
   She had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleuxex.
   While on the floor, she has been doing well. Open Gtube was placed by
   surgery on [**2191-5-16**], and she was started on TF on [**5-18**]. Her chest tube
   remained in place as there continued to be 300-400 cc clear drainage
   daily. The team was screening her for rehab. However, today, she went
   into afib with RVR with HR in 140's, developed a worsening oxygen
   requirement (from 2-3L NC to 70% HiFlow mask) to keep sats in mid to
   high 90's. She had reportedly received IVF boluses the previous night
   for low UOP. On the floor, she received lopressor 2.5 mg IV X 2 with
   improvement of HR to 100's. She recived 20 IV lasix with 800 cc UOP.
   She also received 2 mg IV morphine.
   Upon arrival to the ICU, she was not talking and appears uncomfortable.
   She cannot relate any further history.
   Events yesterday ([**2191-5-21**]):
   Transitioned to PO amiodarone yesterday.
   Hypoxemic requiring 70% FM
 now down to 35% FM.
   TTE with bubble done:  ASD PFO noted.  Dilated RV suggestive of PE in
   the past.  Lovenox started.
   Lasix gtt started o/n but now held due to marginal BP.  TBB +1L since
   yesterday.
   MS continues to was and wanes.
   Chest tube clamped -> no re-accumulation of effusion.
   24 Hour Events:
   Hypoxemic episode o/n- CT unclamped with 100 cc out.  Still on 70% FM
   Tachycardic to 140s this am (aflutter)-> cardizem po started.
   Episode of diarrhea this AM-> cdiff sent.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-21**] 09:00 AM  (day 3)
   Piperacillin - [**2191-5-21**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-22**] 12:00 AM (Day 3)
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2191-5-21**] 10:00 PM
   Other medications:
   Amio 400 [**Hospital1 **]
   Metoprolol 12.5 [**Hospital1 **]
   Lidoderm patch
   Depakote
   [**Doctor First Name 877**]
   Asa 325
   Metformin 850
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-22**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 118 (90 - 122) bpm
   BP: 94/54(61) {71/34(0) - 108/54(61)} mmHg
   RR: 31 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,385 mL
                                                                    559 mL
   PO:
             TF:
                                                                  1,130 mL
                                                                    329 mL
   IVF:
                                                                    895 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    902 mL
                                                                    350 mL
   Urine:
                                                                    762 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   287 K/uL
   105 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.3 mEq/L
   37 mg/dL
   94 mEq/L
   135 mEq/L
   23.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2191-5-19**]  04:43 PM
                             [**2191-5-20**]  12:10 AM
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
                             [**2191-5-22**]  03:26 AM
   WBC
   13.0
   18.3
   11.5
   Hct
   25.7
   26.8
   23.2
   Plt
   288
   299
   287
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   148
   128
   138
   108
   105
   Other labs: PT / PTT / INR:13.0/43.0/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:67.0 %, Band:8.0 %, Lymph:6.0 %,
   Mono:18.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL,
   LDH:213 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (400cc/day past 24 hrs).  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns today
   after receiving IV fluids on the floor, going into afib with RVR and
   desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR this
   occurred in the setting of IV fluids
   - currently in aflutter.  Will continue with po amiodarone and  change
   lopressor to cardizem.
   #Fever-and slight bandemia
   -Pan cultured
   -Vanc/Zosyn started [**5-19**] for coverage- will do empiric 8 day course
   given micro samples were subotimal.
   - repeat cdiff
   # Hypoxic Respiratory Failure:
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE.
   - resend sputum cultures; continue vanco and zosyn for now (day 3)
   - Unclamp CT and repeat CXR.  Seems as if clamping her CT yesterday was
   associated with worsened resp status.
   - transition to lovenox
 coumadin.  There is an indication for
   anticoagulation for afib.  Will not do confirmatory testing for PE.
   # Altered mental status: now back to her baseline, which is demented.
   - hold sedating meds.
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place.
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube may be an option. Will discuss with IP.
   # Borderline hypotension- Her blood pressures have been running in the
   80's-90's systolic during her admission, asymptomatic. Here, blood
   pressure has been 100s recently, stable
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2191-05-23 11:37:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing 400cc/day.  She is s/p a an open J tube placed.
   She had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleuxex.
   While on the floor, she has been doing well. Open Gtube was placed by
   surgery on [**2191-5-16**], and she was started on TF on [**5-18**]. Her chest tube
   remained in place as there continued to be 300-400 cc clear drainage
   daily. The team was screening her for rehab. However, today, she went
   into afib with RVR with HR in 140's, developed a worsening oxygen
   requirement (from 2-3L NC to 70% HiFlow mask) to keep sats in mid to
   high 90's. She had reportedly received IVF boluses the previous night
   for low UOP. On the floor, she received lopressor 2.5 mg IV X 2 with
   improvement of HR to 100's. She recived 20 IV lasix with 800 cc UOP.
   She also received 2 mg IV morphine.
   Upon arrival to the ICU, she is not talking and appears uncomfortable.
   She cannot relate any further history.
   24Hr event:
   hypotensive to lasix drip
   metoprolol stopped and swithced to dilt.
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2191-5-21**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-23**] 07:58 AM
   Vancomycin - [**2191-5-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2191-5-22**] 10:11 PM
   Furosemide (Lasix) - [**2191-5-22**] 10:12 PM
   Diltiazem - [**2191-5-23**] 03:00 AM
   Other medications:
   amiodarone 400 tid
   asa
   fexofenadine
   mvit
   depakote
   lidocaine patch
   lovenox 70mg Q12
   glucophage
   dilt 30mg qid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-23**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (101 - 131) bpm
   BP: 94/61(70) {88/38(51) - 128/64(83)} mmHg
   RR: 28 (16 - 36) insp/min
   SpO2: 94%  50% FM
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,220 mL
                                                                  1,226 mL
   PO:
             TF:
                                                                  1,130 mL
                                                                    546 mL
   IVF:
                                                                    500 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    835 mL
   Urine:
                                                                    955 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///42/
   Physical Examination
   GEN: Alert, answering simple questions, NAD
   Skin:  Not assessed
   Neurologic:  Right pupuil 3mm; left 2mm.  EOMI
   CV: irregular, no m/r/g
   LUNGS: exam limited but CTA at apices.  Left CT wrapped behid occlusive
   dressing.
   ABD: soft, NT
   EXT: +1 edema.
   Labs / Radiology:unchanged
   7.8 g/dL
   362 K/uL
   109 mg/dL
   0.6 mg/dL
   42 mEq/L
   4.2 mEq/L
   30 mg/dL
   90 mEq/L
   135 mEq/L
   25.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2191-5-19**]  04:43 PM
                             [**2191-5-20**]  12:10 AM
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
   WBC
   13.0
   18.3
   11.5
   10.7
   Hct
   25.7
   26.8
   23.2
   25.1
   Plt
   288
   299
   287
   362
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   148
   128
   138
   108
   105
   109
   Other labs: PT / PTT / INR:13.1/45.6/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:67.0 %, Band:8.0 %, Lymph:6.0 %,
   Mono:18.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL,
   LDH:213 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Blood, urine chest tube fluid all negative.
   TTE-hyperdynamic LV EF 70% RV dialted, mild MR, moderate PAHTN, +Bubble
   ASD or PFO.
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (400cc/day past 24 hrs).  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns today
   after receiving IV fluids on the floor, going into afib with RVR and
   desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR this
   occurred in the setting of IV fluids
   - continue amiodarone and Dilt
   -If unable to control rate with dilt will give trial of verapamil.
   #Fever-and slight bandemia
   -Pan cultured
   -Vanc/Zosyn started [**5-19**] for coverage will treat for 7 days then stop
   # Hypoxic Respiratory Failure:
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE.
   - Unclamp CT transiently to evaluate possibility of re-caccumulation of
   pleural effusion.
   - transition to lovenox
 coumadin.  There is an indication for
   anticoagulation for afib.  Will not do confirmatory testing for PE.
   -Continue goal negative volume status
   # Altered mental status: per team, yesterday, she was still able to
   communicate with team, at times disoriented. Earlier, she was somnolent
   but this was in the setting of narcotics. Currently improving MS.
   - hold sedating meds.
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place.
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube may be an option. Will discuss with IP.
   # Borderline hypotension-  Goal rate contorl and negative fluid
   balance.
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement
   ICU Care
   Nutrition: Tube feeds
   Nutren Pulmonary (Full) - [**2191-5-23**] 04:10 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :
   Total time spent:

2191-05-24 09:16:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   continuously producing now down to 250cc.  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns  after
   receiving IV fluids on the floor, going into afib with RVR and
   desaturating. Active issues continued pleural drainage, fever,
   hypoexmia and RV failure.
   24 Hour Events:
   Did well on the diltiazem drip and received lasix to make negative.
   More confused today but more alert
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2191-5-21**] 04:00 PM
   [**5-19**] Piperacillin/Tazobactam (Zosyn) - [**2191-5-24**] 08:00 AM
   [**5-19**] Vancomycin - [**2191-5-24**] 08:36 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2191-5-23**] 10:09 PM
   Furosemide (Lasix) - [**2191-5-24**] 06:14 AM
   Other medications:
   -amiodarone 400 tid
   -asa
   -fexofenadine
   -mvi
   -Perphenazine
   -depakote
   -lidocaine patch
   -lovenox 70mg Q12
   -glucophage
   -dilt 45 mg qid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-24**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 105 (95 - 118) bpm
   BP: 108/52(65) {73/33(47) - 125/70(107)} mmHg
   RR: 28 (20 - 34) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,315 mL
                                                                  1,072 mL
   PO:
             TF:
                                                                  1,128 mL
                                                                    435 mL
   IVF:
                                                                    537 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    920 mL
   Urine:
                                                                  2,180 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
                                                                 250 24hrs
   Balance:
                                                                   -305 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///40/
   Physical Examination
   GEN: Alert, answering simple questions, confused NAD
   Neck:Unable to appreciate JVP
   CV: irregular, no m/r/g
   LUNGS: bronchial BS left base otherwise CTA.
   ABD: soft, NT
   EXT: No edema.
   Labs / Radiology: Chest unchanged
   9.2 g/dL
   402 K/uL
   101 mg/dL
   0.6 mg/dL
   40 mEq/L
   4.4 mEq/L
   25 mg/dL
   88 mEq/L
   133 mEq/L
   28.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2191-5-19**]  04:43 PM
                             [**2191-5-20**]  12:10 AM
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
   WBC
   13.0
   18.3
   11.5
   10.7
   10.9
   Hct
   25.7
   26.8
   23.2
   25.1
   28.8
   Plt
   288
   299
   287
   362
   402
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   148
   128
   138
   108
   105
   109
   101
   Other labs: PT / PTT / INR:12.4/33.7/1.0, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:67.0 %, Band:8.0 %, Lymph:6.0 %,
   Mono:18.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL,
   LDH:213 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   No new micro
   Gas Pending-
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (200cc/day).  She is s/p open J tube placed.  She
   had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleural catheter.  She returns after receiving IV
   fluids on the floor, going into afib with RVR and desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR this
   occurred in the setting of IV fluids
   - continue amiodarone and Dilt
   -If unable to control rate with dilt will give trial of verapamil.
   #Fever-and slight bandemia
   -Pan cultured
   -Vanc/Zosyn started [**5-19**] for coverage will treat for 7 days then stop
   currently [**5-19**].
   # Hypoxic Respiratory Failure:
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE hemodynamics.
   - Unclamp CT transiently to evaluate possibility of re-caccumulation of
   pleural effusion.
   - transition to lovenox
 coumadin.  There is an indication for
   anticoagulation for afib.  Will not do confirmatory testing for PE.
   -Continue goal negative volume status
   # Altered mental status: Still disoriented but less somulent
   -Will check gas for alkalemia given elevated bicarb
   -Will consider diamox
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place.
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube may be an option. Will discuss with IP.
   # Borderline hypotension-  Goal rate control and negative fluid
   balance.( if needed with albumin)
   -Continue lasix bolus.
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   #Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement . prognosis is poor given age and severity of medical issues
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-23**] 11:57 PM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent:  25 mins

2191-05-25 08:01:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   continuously producing now down to 170 cc.  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns  after
   receiving IV fluids on the floor, going into afib with RVR and
   desaturating. Active issues continued pleural drainage, fever,
   hypoexmia and RV failure.
   24 Hour Events:
   No events, received diamox and lasix and switched back to metoprolol.
   NG suctioned
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-24**] 08:36 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-5-24**] 06:05 PM
   Enoxaparin (Lovenox) - [**2191-5-24**] 11:35 PM
   Other medications:
   amiodarone 400 tid
   asa
   fexofenadine
   mvi
   Perphenazine
   depakote
   lidocaine patch
   lovenox 70mg Q12
   famotidine Q12
   Metoprolol 37.5 tid
   glucophage
   Zosyn and Vanc
   KCL 40meq
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-25**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 101 (97 - 119) bpm
   BP: 113/45(60) {91/37(55) - 135/59(86)} mmHg
   RR: 28 (21 - 34) insp/min
   SpO2: 96% 40% FM
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,184 mL
                                                                    576 mL
   PO:
             TF:
                                                                  1,133 mL
                                                                    376 mL
   IVF:
                                                                    621 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,155 mL
   Urine:
                                                                  2,580 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -666 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.39/64/129
   Physical Examination
   GEN: Alert, answering simple questions, confused NAD
   Neck:Unable to appreciate JVP
   CV: irregular, no m/r/g
   LUNGS: bronchial BS left base otherwise CTA.
   ABD: soft, NT
   EXT: No edema.
   Labs / Radiology: Chest right effusion decreased.
   8.4 g/dL
   439 K/uL
   120 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.6 mEq/L
   23 mg/dL
   89 mEq/L
   132 mEq/L
   26.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2191-5-19**]  04:43 PM
                             [**2191-5-20**]  12:10 AM
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
   WBC
   13.0
   18.3
   11.5
   10.7
   10.9
   14.8
   Hct
   25.7
   26.8
   23.2
   25.1
   28.8
   26.6
   Plt
   288
   299
   287
   362
   402
   439
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   36
   38
   Glucose
   148
   128
   138
   108
   105
   109
   101
   120
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:75.0 %, Band:0 %,   Lactic Acid:1.9
   mmol/L, Albumin:2.7 g/dL, LDH:213 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   UA-21-50WBC few bacteria
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (200cc/day).  She is s/p open J tube placed.  She
   had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleural catheter.  She returns after receiving IV
   fluids on the floor, going into afib with RVR and desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR this
   occurred in the setting of IV fluids
   - continue amiodarone and metoprolol 25mg tid
   -If hypotensive will give trial of verapamil.
   #Fever-and slight bandemia
   -Pan cultured
   -Vanc/Zosyn started [**5-19**] for coverage will treat for 7 days then stop
   currently [**6-20**].
   # Hypoxic Respiratory Failure:
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE hemodynamics.
   - Unclamp CT transiently to evaluate possibility of re-caccumulation of
   pleural effusion.
   - transition to lovenox
 coumadin.  There is an indication for
   anticoagulation for afib.  Will not do confirmatory testing for PE.
   -Continue goal even volume status
   -tritrate FI02
   # Altered mental status: Still disoriented but less somulent
   -Will check gas for alkalemia given elevated bicarb
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place.
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube may be an option. Will discuss with IP.
   # Borderline hypotension-  Goal rate control and negative fluid
   balance.( if needed with albumin)
   -Hold lasix given hyponatremia
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   #Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   -Ethics consult [**Doctor First Name **] to talk with guardian and PCP willing to be
   involved in discussions. She will not do well if she does end up on
   ventilator for progressive sepsis/ aspiration PNA given severe comorbid
   medical issues and poor mentation
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement . prognosis is poor given age and severity of medical issues
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-25**] 07:42 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition : ICU pending family meeting/ ethics consult
   Total time spent: 25 mins

2191-05-26 06:50:00 Physician Resident Progress Note
Chief Complaint:
   1. Pneumonia
   2. Atrial fibrillation
   24 Hour Events:
   - UA positive; foley changed
   - Changed metoprolol to verapamil (for rate control) given SBP in 80s
   - Felt to be dry; increased free water in TF and checked afternoon
   sodium
   - Ethics called ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2161**])
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-25**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-25**] 11:39 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-5-25**] 09:00 AM
   Enoxaparin (Lovenox) - [**2191-5-25**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems: Review of systems is unchanged from admission except
   as noted below
   Flowsheet Data as of  [**2191-5-26**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 117 (90 - 122) bpm
   BP: 135/89(99) {82/34(47) - 135/89(99)} mmHg
   RR: 26 (21 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,439 mL
                                                                    395 mL
   PO:
             TF:
                                                                  1,129 mL
                                                                    320 mL
   IVF:
                                                                    720 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    625 mL
   Urine:
                                                                  1,325 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     79 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/64/129/32/11
   PaO2 / FiO2: 322
   Physical Examination
   GEN:  Chronically ill appearing, but no acute distress
   HEENT:  PERRL (3mm
 2mm);  very dry MM and poor dentition
   PULM: Diminished breath sounds on left. L chest tube in place.
   CV:  Tachycardic and Irregularly irregular S1 S2 no m/r/g appreciated
   ABD:  Soft nontender +bowel sounds PEG in place no erythema or drainage
   at site.
   EXT:  Warm; trace edema
   NEURO:  Not responding to commands,
   R PICC without erythema or exudate
   Labs / Radiology
   382 K/uL
   7.4 g/dL
   105 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.8 mEq/L
   23 mg/dL
   92 mEq/L
   131 mEq/L
   23.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
                             [**2191-5-25**]  09:50 AM
                             [**2191-5-26**]  02:55 AM
   WBC
   13.0
   18.3
   11.5
   10.7
   10.9
   14.8
   14.4
   Hct
   25.7
   26.8
   23.2
   25.1
   28.8
   26.6
   23.2
   Plt
   288
   299
   287
   362
   402
   439
   382
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   38
   40
   Glucose
   128
   138
   108
   105
   109
   101
   120
   105
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:75.3 %, Band:8.0 %, Lymph:12.3 %,
   Mono:7.4 %, Eos:4.6 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL,
   LDH:213 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Micro:
   Blood ([**5-8**]): Coag-negative staph ([**2-16**]) bottles
   Blood ([**5-10**], [**5-16**]):  Negative
   Blood ([**5-20**], [**5-26**]):  NGTD
   Pleural fluid ([**5-6**]):  Negative
   Sputum ([**4-23**], [**4-30**], [**5-20**], [**5-25**]):  Poor samples
   Stool ([**5-20**], [**5-22**], [**5-24**]):  C.diff negative
   Urine ([**4-22**]): klebsiella
   Urine ([**5-8**], [**5-17**], [**5-19**]): yeast
   Urine ([**5-25**]): NGTD
   CXR ([**5-25**]): Previous small right pleural effusion has decreased. Left
   lower lobe remains atelectatic. Pigtail catheter unchanged in position
   projecting over the medial left base. No pneumothorax. Mild
   interstitial abnormality is probably edema. Heart size is not enlarged.
   Assessment and Plan: 86F with PMH schizoprenia, paroxysmal atrial
   fibrillation in and out of MICU with course complicated by LLL
   pneumonia, trap lung, AF with RVR.
   # Mental status change:  Poor baseline wit underlying schizophrenia
   though MS [**First Name (Titles) 3548**] [**Last Name (Titles) 3549**] over [**Date range (1) 6300**].
   VBG [**5-24**] showed increased hypercarbia. Increased WBC ([**5-25**]) concerning
   for possible infection with positive UA. Aside from hypercarbia and
   infection, hyponatremia may also be contributory.
   - Urine culture and blood culture pending
   - Foley changed ([**5-25**])
   - Treat hyponatremia as below
   # Metabolic alkalosis:  [**Month (only) 8**] be from diuresis with some underlying
   baseline hypercarbia and resulting metabolic alkalosis.
   Bicarbonate improved ([**5-26**]).
   # Hyponatremia:  Suspect hypovolemic hyponatremia.  Slightly [**Month/Year (2) 3549**]
   (5/13/
 [**5-26**]).
   - Hold off on further diuresis today and check PM electrolytes.
   - Decrease free water in TF
   - check urine electrolytes
   - Bolus w/ NS for possible hypovolemic component
   # Hypoxia: She has been hypoxic for numerous reasons this extended
   hospital course. PE also remains on differential, and have been
   treating emprically for PE. EKG without signs of right heart strain. Of
   note, VBG shows very high Pao2 suggestive of possible shunt. Repeat
   ABG/VBG correlate well, but Bubble study does show shunt, likely
   ASD/PFO.  Hypoxia appears improved as now down to 4L NC.
   - Continue empiric LMWH for PE
   - Continue empiric vanc/zosyn for pna. Currently on day 7, plan to
   complete 8d course.
   - Clamp chest tube when draining <100cc/day (drained 280 after
   midnight)
   # Pleural effusion: Still draining so will speak w/ IP about possible
   pleurodesis.  Although exudative, not c/w empyemia
   # Paroxysmal Atrial fibrillation:  She was in RVR on admission with
   rate in the 150's responded to IV metoprolol x2. In and out of Afib on
   floor.  Has been hypotensive on lopressor so verapamil started ([**5-25**]).
   - Titrate verapamil
   - Continue Amiodarone
   - Continue lovenox/ASA
   - Monitor on telemetry
   - Will not restart digoxin
   # ASD/PFO
   - Continue to monitor
   # Aspiration: Failed video swallow and is currently NPO. In the ICU
   question was raised whether aspiration is [**2-14**] stroke but no new focal
   neurological signs. G tube placed and TFs started
   - NPO
   - TFs started
   # Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia:  Trended down to 23.2 ([**5-26**]).  LDH and bili also not
   elevated. Iron studies not c/w iron deficiency
   - Given tachycardia, hypovolemia, will give 1 U PRBC today
   - continue to follow
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2191-5-24**] 09:04 PM 47 mL/hour
   Glycemic Control:  Well controlled
   Lines: PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: Boots; LMWH Heparin
   Stress ulcer: H2 blocker
   VAP: not intubated
   Communication:  [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]:
   Code status: Full code, discuss with HCP, social work and ethics
   consult is pending
   Disposition: ICU

2191-05-26 08:07:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   continuously producing over 200 cc day.  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns  after
   receiving IV fluids on the floor, going into afib with RVR and
   desaturating. Active issues continued pleural drainage, fever,
   hypoexmia and RV failure.
   24 Hour Events:
   UA positive foley changed
   increased free water
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6357**] called for ethics consult
 PAN CULTURE - At [**2191-5-25**] 09:00 AM
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-25**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-25**] 11:39 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-5-25**] 09:00 AM
   Enoxaparin (Lovenox) - [**2191-5-25**] 08:29 PM
   Other medications:
   -amiodarone 400 [**Hospital1 **]
   -asa
   -fexofenadine
   -mvi
   -Perphenazine
   -depakote
   -lidocaine patch
   -lovenox 70mg Q12
   -famotidine Q12
   -Verapamil 40 Q8hr
   Zosyn and Vanc
   KCL 40meq
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-26**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 117 (90 - 117) bpm
   BP: 135/89(99) {82/34(47) - 135/89(99)} mmHg
   RR: 26 (21 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,439 mL
                                                                    462 mL
   PO:
             TF:
                                                                  1,129 mL
                                                                    382 mL
   IVF:
                                                                    720 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    625 mL
   Urine:
                                                                  1,325 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     79 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96% 4L
   ABG: 7.39/64/129/32/11
   PaO2 / FiO2: 322
   Physical Examination
   GEN: Less responsive, and more tachypnic
   HEENT; PERRL, OP dry
   Neck: Unable to appreciate JVP
   CV: irregular, no m/r/g
   LUNGS: Drecreased BS on the left
   ABD: soft, NT
   EXT: No edema.
   Labs / Radiology: Continued left pneumothorax and slight increase in
   effusion and continued LLL atelectasis and mediastinal shift.
   7.4 g/dL
   382 K/uL
   105 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.8 mEq/L
   23 mg/dL
   92 mEq/L
   131 mEq/L
   23.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2191-5-20**]  04:02 AM
                             [**2191-5-20**]  02:12 PM
                             [**2191-5-20**]  05:02 PM
                             [**2191-5-21**]  01:30 AM
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
                             [**2191-5-25**]  09:50 AM
                             [**2191-5-26**]  02:55 AM
   WBC
   13.0
   18.3
   11.5
   10.7
   10.9
   14.8
   14.4
   Hct
   25.7
   26.8
   23.2
   25.1
   28.8
   26.6
   23.2
   Plt
   288
   299
   287
   362
   402
   439
   382
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   38
   40
   Glucose
   128
   138
   108
   105
   109
   101
   120
   105
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3,  Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:213 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Micro no new growth, urine pending
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (200cc/day).  She is s/p open J tube placed.  She
   had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleural catheter.  She returns after receiving IV
   fluids on the floor, going into afib with RVR and desaturating.
   #Afib with RVR-She continues to have episodes of Afib with RVR suspect
   component of volume depletetion.  Also question if worsening left sided
   process increasing respiratory demand.
   - continue amiodarone and will give bolus fluid and 1 unit PRBC
   - Will titrate up the verapamil each dose and consider a drip
   #hyponatermia-stop free water and follow.
   -Normal saline 500 cc bolus
   #Fever-and slight bandemia improved, fever continues
   -Pan cultured
   -Vanc/Zosyn started [**5-19**] for coverage will treat for 8 days then stop
   currently [**7-20**].
   # Hypoxic Respiratory Failure: currently improved oxygenation however
   increased respiratoy rate and drop in bicarbonate
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE hemodynamics.
   - Unclamp CT transiently to evaluate possibility of re-accumulation of
   pleural effusion and it has racummulated on multiple attempts.
   - transition to lovenox
 coumadin when more stables indication for
   anticoagulation for afib.  Will not do confirmatory testing for PE.
   -Continue to titrate FI02
   # Altered mental status: Still disoriented with increased somulence
   - Drop in Bicarb will have a low threshold to send gas will start with
   VBG.
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place which appears to
   have moved to more peripheral placement.
   - suspect a component of trapped lung.  Once HR well controlled will
   need to reassess catheter drainage i.e. Talc pleuradesis through the
   tube vrs VATs and decortication and manual pleuradesis..
   # Borderline hypotension-  Goal rate control and negative fluid
   balance.( if needed with albumin)
   -Hold lasix given Na and suspect volume depletion
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   -Will transfuse 1 unit to day to see if helps with tachycardia
   #Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] guardian,
   and pt clearly expressed desire to remain full code.
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   -Ethics consult [**Doctor First Name **] to talk with guardian and PCP willing to be
   involved in discussions. She will not do well if she does end up on
   ventilator for progressive sepsis/ aspiration PNA given severe comorbid
   medical issues and poor mentation
   Dispo: Pending resolution of pleural effusion, removal of [**Hospital 1650**] rehab
   placement . prognosis is poor given age and severity of medical issues
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-26**] 04:52 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Possible floor when rate controlled.
   Total time spent:

2191-05-27 08:06:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - made DNR/DNI
   - transfused 2units prbcs ?intravasc volume down contributing to her
   poor rate control
   - uptitrate verapamil with seeming good effect early in the day
   - desat to 70% overnight placed on NRB but struggling to maintain low
   80's on NRB
   - gave morphine and lasix, with little improvement
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-26**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-5-26**] 08:00 PM
   Enoxaparin (Lovenox) - [**2191-5-26**] 10:00 PM
   Furosemide (Lasix) - [**2191-5-27**] 03:31 AM
   Morphine Sulfate - [**2191-5-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt unable to provide
   Flowsheet Data as of  [**2191-5-27**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.7
C (96.3
   HR: 107 (101 - 129) bpm
   BP: 87/48(58) {87/39(51) - 158/68(92)} mmHg
   RR: 25 (20 - 42) insp/min
   SpO2: 82%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  3,124 mL
                                                                    516 mL
   PO:
             TF:
                                                                  1,134 mL
                                                                    377 mL
   IVF:
                                                                  1,020 mL
                                                                    140 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,290 mL
                                                                    510 mL
   Urine:
                                                                  1,745 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    834 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 82%
   ABG: 7.34/61/36/32/4
   Physical Examination
   Ill appearing, tachypneic but more comfortable appearing compared to
   earlier in the evening
   PEARL
   Lungs with diminished breath sounds on R, no rales, few inspiratory
   wheezes
   Tachy irregularly irregular S1 S2 no m/r/g
   Abd soft nontender +bowel sounds PEG in place
   Extrem warm no edema palpable pulses
   R PICC in place
   Labs / Radiology
   387 K/uL
   9.7 g/dL
   138 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   30 mg/dL
   93 mEq/L
   133 mEq/L
   28.7 %
   23.8 K/uL
        [image002.jpg]
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
                             [**2191-5-25**]  09:50 AM
                             [**2191-5-26**]  02:55 AM
                             [**2191-5-26**]  04:51 PM
                             [**2191-5-26**]  08:03 PM
                             [**2191-5-27**]  03:36 AM
                             [**2191-5-27**]  04:51 AM
   WBC
   11.5
   10.7
   10.9
   14.8
   14.4
   16.7
   23.8
   Hct
   23.2
   25.1
   28.8
   26.6
   23.2
   28.0
   28.7
   Plt
   287
   362
   402
   439
   382
   349
   387
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   TCO2
   40
   34
   Glucose
   105
   109
   101
   120
   105
   118
   138
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:75.3 %, Band:8.0 %, Lymph:12.3 %,
   Mono:7.4 %, Eos:4.6 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   LDH:213 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Pleural fluids 1210 wbc (22 polys, 24 lymps, 23 monos, 31 eos), 530 rbc
   Micro
   [**5-25**] sputum >10 epis
   [**5-25**] blood cx NGTD
   [**5-25**] urine cx NGTD
   [**5-26**] pleural fluid cx NGTD
   Other recent micro negative/pending
   Assessment and Plan: 86F with PMH schizoprenia, paroxysmal atrial
   fibrillation in and out of MICU with course complicated by LLL
   pneumonia, trap lung, AF with RVR.
   # Hypoxia:
   [**Month/Year (2) **] respiratory status overnight, possibly recurrent aspiration
   event give RLL infiltrate and [**Month/Year (2) 3549**] leukocytosis today. Consider
   also mucous plugging, though less likely to account for leukocytosis.
   Did not appear to be in significant pulmonary edema.
   She has been hypoxic for numerous reasons this extended hospital
   course. PE also remains on differential, and have been treating
   emprically for PE. EKG without signs of right heart strain. Of note,
   VBG shows very high Pao2 suggestive of possible shunt. Repeat ABG/VBG
   correlate well, but Bubble study does show shunt, likely ASD/PFO.
   Hypoxia appears improved as now down to 4L NC.
   - Continue empiric LMWH for PE
   - On empiric vanc/zosyn for pna. Currently on day 8, plan to complete
   8d course.
   - Clamp chest tube when draining <100cc/day (drained 280 after
   midnight)
   .
   # Leukocytosis: ? from cdiff given diarrhea.  ? from aspiration event.
   - send cdiff (although priors have been negative).
   - start flagyl empirically
   - would change from zosyn to [**Last Name (un) **]/cipro if goals continue to be
   aggressive care for possible resistant gram negative coverage
   # Mental status change:  Poor baseline wit underlying schizophrenia
   though MS [**First Name (Titles) 3548**] [**Last Name (Titles) 3549**] over [**Date range (1) 6300**].
   VBG [**5-24**] showed increased hypercarbia. Increased WBC ([**5-25**]) concerning
   for possible infection with positive UA. Aside from hypercarbia and
   infection, hyponatremia may also be contributory.
   - Urine culture and blood culture pending
   - Foley changed ([**5-25**])
   - Treat hyponatremia as below
   # Metabolic alkalosis:  [**Month (only) 8**] be from diuresis with some underlying
   baseline hypercarbia and resulting metabolic alkalosis.
   Bicarbonate improved ([**5-26**]).
   # Hyponatremia:  Suspect hypovolemic hyponatremia.  Slightly [**Month/Year (2) 3549**]
   (5/13/
 [**5-26**]).
   - Hold off on further diuresis today and check PM electrolytes.
   - Decrease free water in TF
   - check urine electrolytes
   - Bolus w/ NS for possible hypovolemic component
   # Pleural effusion: Still draining so will speak w/ IP about possible
   pleurodesis.  Although exudative, not c/w empyemia
   # Paroxysmal Atrial fibrillation:  She was in RVR on admission with
   rate in the 150's responded to IV metoprolol x2. In and out of Afib on
   floor.  Has been hypotensive on lopressor so verapamil started ([**5-25**]).
   - Titrate verapamil (will need to decrease today given low BP)
   - Continue Amiodarone
   - Continue lovenox/ASA
   - Monitor on telemetry
   - Will not restart digoxin
   # ASD/PFO
   - Continue to monitor
   # Aspiration: Failed video swallow and is currently NPO. In the ICU
   question was raised whether aspiration is [**2-14**] stroke but no new focal
   neurological signs. G tube placed and TFs started
   - NPO
   - TFs started
   # Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia:  Trended down to 23.2 ([**5-26**]).  LDH and bili also not
   elevated. Iron studies not c/w iron deficiency
   - Given tachycardia, hypovolemia, will give 1 U PRBC today
   - continue to follow
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-27**] 01:55 AM 47 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2191-05-27 10:37:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint:  afib with RVR, hypoxia
   HPI:
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   continuously producing over 200 cc day.  She is s/p open J
   tube placed.  She had a prolonged ICU stay for afib RVR, hypotension
   and desats that improved with the pleural catheter.  She returns  after
   receiving IV fluids on the floor, going into afib with RVR and
   desaturating. Active issues continued pleural drainage, fever,
   hypoexmia and RV failure.
   24 Hour Events:
   Acute desat to 70% on NRB, chest film question right base infiltrate.
   Tried suctioning, morphine, lasix no effect. s/p 2 units prbc
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2191-5-26**] 08:00 PM
   Enoxaparin (Lovenox) - [**2191-5-26**] 10:00 PM
   Furosemide (Lasix) - [**2191-5-27**] 03:31 AM
   Morphine Sulfate - [**2191-5-27**] 06:00 AM
   Other medications:
   amiodarone 400 [**Hospital1 **]
   asa
   fexofenadine
   mvi
   Perphenazine
   depakote
   lidocaine patch
   lovenox 70mg Q12
   famotidine Q12
   Verapamil 120 Q8hr
   -Zosyn and Vanc
   KCL 40meq
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-27**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 107 (101 - 127) bpm
   BP: 107/47(56) {87/39(51) - 158/68(92)} mmHg
   RR: 29 (20 - 42) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  3,124 mL
                                                                  1,013 mL
   PO:
             TF:
                                                                  1,134 mL
                                                                    500 mL
   IVF:
                                                                  1,020 mL
                                                                    453 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,290 mL
                                                                  1,130 mL
   Urine:
                                                                  1,745 mL
                                                                    530 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                    834 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.34/61/36/32/4
   Physical Examination
   GEN: Less responsive, and more tachypnic
   HEENT; PERRL, OP dry
   Neck: Unable to appreciate JVP
   CV: irregular, no m/r/g
   LUNGS: Drecreased BS on the left
   ABD: soft, NT
   EXT: No edema.
   Labs / Radiology: New RLL infiltrate
   9.7 g/dL
   387 K/uL
   138 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   30 mg/dL
   93 mEq/L
   133 mEq/L
   28.7 %
   23.8 K/uL
        [image002.jpg]
                             [**2191-5-22**]  03:26 AM
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
                             [**2191-5-25**]  09:50 AM
                             [**2191-5-26**]  02:55 AM
                             [**2191-5-26**]  04:51 PM
                             [**2191-5-26**]  08:03 PM
                             [**2191-5-27**]  03:36 AM
                             [**2191-5-27**]  04:51 AM
   WBC
   11.5
   10.7
   10.9
   14.8
   14.4
   16.7
   23.8
   Hct
   23.2
   25.1
   28.8
   26.6
   23.2
   28.0
   28.7
   Plt
   287
   362
   402
   439
   382
   349
   387
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   TCO2
   40
   34
   Glucose
   105
   109
   101
   120
   105
   118
   138
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:87.0 %, Band:1.0 %, Lymph:3.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   LDH:213 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   86 year-old woman with schizophrenia, recurrent aspiration, poorly
   controlled AF c RVR initially admitted with LLL PNA subsequent large
   left effusion and ? trapped lung s/p pigtail cathter that is
   coninuously producing (200cc/day).  She is s/p open J tube placed.  She
   had a prolonged ICU stay for afib RVR, hypotension and desats that
   improved with the pleural catheter.  She returns after receiving IV
   fluids on the floor, going into afib with RVR and desaturating.  With
   acute decompensation with increased WBC and new RLL infiltrate
   #Afib with RVR-She continues to have episodes of Afib with RVR
   responded to volume and verapamil yesterday until acute event.
   - continue amiodarone and verapamil
   #hyponatermia-stop free water and follow.
   #New infiltrate
   -Vanc/Zosyn continue given new infiltrate and concern for aspiration.
   #Elevated WBC-likley worsening sepsis, possibly C. Diff colitis. Start
   flagyl
   # Hypoxic Respiratory Failure: currently improved oxygenation however
   increased respiratoy rate and drop in bicarbonate
   Multifactorial: Likely HAP, left pleural effusion, intracardiac shunt
   and RV dysfunction potentially representing PE hemodynamics.
   - Unclamp CT transiently to evaluate possibility of re-accumulation of
   pleural effusion and it has racummulated on multiple attempts.
   - transition to lovenox
 coumadin when more stables indication for
   anticoagulation for afib.
   -Continue to titrate FI02
   # Altered mental status: Still disoriented with increased somulence
    # Pleural effusion: Pt has left sided transudative pleural effusion
   and trapped lung with pigtail (placed [**5-10**]) in place which appears to
   have moved to more peripheral placement.
   -improved effusions may need to D/c left chest tube
   # Borderline hypotension-  Goal rate control and negative fluid
   balance.( if needed with albumin)
   -Will reduce verapamil to 80mg
   #. Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia- Currently stable, recent baseline HCT 25-28. LDH and bili
   also not elevated. Iron studies not c/w iron deficiency
   - continue to monitor
   #Code status: This was readdressed with the patient, PCP, [**Name10 (NameIs) **] [**Name10 (NameIs) **]:
   [**Name (NI) **] [**Last Name (NamePattern1) 2084**] [**Name (NI) 814**] [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]  . [**Doctor First Name **] does not
   wish for heroic rescucitation if the likelihood of meaningful recovery
   is poor. She is DNR/ DNI
   If She continues to decline will discuss transition to comfort care.
   Dispo: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-5-27**] 01:55 AM 47 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition : Icu for now. I have left messages for nephew [**Name (NI) **] [**Name (NI) 6403**]
   regarding her declining health and possibility that she may not survive
   over the weekend if she continues to manifest signs of respiratory
   distress.
   Total time spent:  35 mins

2191-05-28 07:55:00 Physician Resident Progress Note
Chief Complaint:
   1. Altered mental status
   2. Hypoxia
   24 Hour Events:
   - Per attending, no escallation of care.  Attending spoke w/ HCP who is
   okay with this.
   - Bolused 1 L NS for low BP in the morning
   - Awaiting visit from nephew [**Name (NI) **] [**Name (NI) 6403**] ([**Telephone/Fax (1) 6441**] on Monday
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-28**] 12:14 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-5-28**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-28**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 99 (91 - 120) bpm
   BP: 105/45(60) {76/34(43) - 139/92(99)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  4,037 mL
                                                                    888 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                  2,774 mL
                                                                    888 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    305 mL
   Urine:
                                                                  1,180 mL
                                                                    305 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,247 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 90%
   ABG: ///33/
   Physical Examination
   Ill appearing.  Open mouth breathing.  Not responding to voice.  Does
   not follow commands.
   Lungs with diminished breath sounds on R, no rales, few inspiratory
   wheezes
   Tachy irregularly irregular S1 S2 no m/r/g
   Abd soft nontender +bowel sounds PEG in place
   Extrem warm no edema palpable pulses
   R PICC in place
   Labs / Radiology
   400 K/uL
   9.8 g/dL
   105 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   29 mg/dL
   97 mEq/L
   137 mEq/L
   30.8 %
   24.9 K/uL
        [image002.jpg]
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
                             [**2191-5-25**]  09:50 AM
                             [**2191-5-26**]  02:55 AM
                             [**2191-5-26**]  04:51 PM
                             [**2191-5-26**]  08:03 PM
                             [**2191-5-27**]  03:36 AM
                             [**2191-5-27**]  04:51 AM
                             [**2191-5-28**]  05:43 AM
   WBC
   10.7
   10.9
   14.8
   14.4
   16.7
   23.8
   24.9
   Hct
   25.1
   28.8
   26.6
   23.2
   28.0
   28.7
   30.8
   Plt
   362
   402
   439
   382
   349
   387
   400
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   0.6
   TCO2
   40
   34
   Glucose
   109
   101
   120
   105
   118
   138
   105
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:87.0 %, Band:1.0 %, Lymph:3.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   LDH:213 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Micro:
   Blood ([**5-25**], [**5-27**]):  NGTD
   Pleural fluid ([**5-26**]):  NGTD
   Urine ([**5-25**], [**5-27**]):  Yeast
   CXR ([**5-27**]):  In comparison with the study of [**5-26**], there is increased
   aeration at the left base with visualization of the hemidiaphragm,
   consistent with some resolution of atelectasis and drainage of pleural
   effusion through the pigtail catheter. Atelectatic changes with
   blunting of the costophrenic angle persists on the right. There is
   again prominence of vascular markings consistent with elevated
   pulmonary venous pressure.
   Assessment and Plan: 86F with PMH schizoprenia, paroxysmal atrial
   fibrillation in and out of MICU with course complicated by LLL
   pneumonia, trap lung, AF with RVR.
   # Hypoxia: [**Date Range **] respiratory status over [**Date range (1) 6449**], possibly
   recurrent aspiration event give RLL infiltrate and [**Date range (1) 3549**]
   leukocytosis [**5-27**]. Consider also mucous plugging, though less likely to
   account for leukocytosis. Did not appear to be in significant pulmonary
   edema.
   She has been hypoxic for numerous reasons this extended hospital
   course. PE also remains on differential, and have been treating
   emprically for PE. EKG without signs of right heart strain. Of note,
   VBG shows very high Pao2 suggestive of possible shunt. Repeat ABG/VBG
   correlate well, but Bubble study does show shunt, likely ASD/PFO.
   Hypoxia appears improved as now down to 4L NC.
   - Continue empiric LMWH for PE
   - Completed course of vanc/zosyn ([**5-28**])
   - Clamp chest tube when draining <100cc/day (drained 280 after
   midnight)
   .
   # Diarrhea: ? from cdiff given diarrhea.
   - Send c.diff (although priors have been negative).
   - Continue flagyl empirically
   # Mental status change:  Poor baseline wit underlying schizophrenia
   though MS [**First Name (Titles) 3548**] [**Last Name (Titles) 3549**] over [**Date range (1) 6300**].
   VBG [**5-24**] showed increased hypercarbia. Increased WBC ([**5-25**]) concerning
   for possible infection with positive UA.  As of [**5-28**], continues to be
   poor.
   - Urine culture and blood culture pending
   - Foley changed ([**5-25**])
   # Metabolic alkalosis:  [**Month (only) 8**] be from diuresis with some underlying
   baseline hypercarbia and resulting metabolic alkalosis.
   Bicarbonate improved ([**5-26**]).
   # Hyponatremia:  Resolved.
    # Pleural effusion: Still draining so will speak w/ IP about possible
   pleurodesis.  Although exudative, not c/w empyemia
   # Paroxysmal Atrial fibrillation:  She was in RVR on admission with
   rate in the 150's responded to IV metoprolol x2. In and out of Afib on
   floor.  Has been hypotensive on lopressor so verapamil started ([**5-25**]).
   - Titrate verapamil (will need to decrease today given low BP)
   - Continue Amiodarone
   - Continue lovenox/ASA
   - Monitor on telemetry
   - Will not restart digoxin
   # ASD/PFO
   - Continue to monitor
   # Aspiration: Failed video swallow and is currently NPO. In the ICU
   question was raised whether aspiration is [**2-14**] stroke but no new focal
   neurological signs. G tube placed and TFs started
   - NPO
   - TFs started
   # Schizophrenia: Stable.
   - Continue depakote and perphenazine
   # Anemia:  Trended down to 23.2 ([**5-26**]).  LDH and bili also not
   elevated. Iron studies not c/w iron deficiency.  Was tranfused one unit
   of pRBC on [**5-26**].
   ICU Care
   Nutrition: TF
   Glycemic Control:  Blood sugar well controlled
   Lines: PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: Boots;  LMWH Heparin)
   Stress ulcer: H2 blocker
   Communication: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2084**] Guardian [**Telephone/Fax (1) 5691**] or [**Telephone/Fax (1) 5692**]
   Code status: DNR / DNI ; no escalation of care (no pressors)
   Disposition:ICU

2191-05-28 11:33:00 Physician Attending Progress Note
Chief Complaint: hypoxic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86F with schizophrenia, LLL pna, chest tube, likely PE, hypoxic resp
   failure
   24 Hour Events:
   -rising wbc
   -HCP agrees to  no escalation of care
   -fluid repletion for low bp
   -comfortable
   Allergies:
   Sulfonamides
   Unknown;
   Olanzapine
   Unknown;
   Risperidone
   Unknown;
   Propranolol
   Unknown;
   Haloperidol
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-5-28**] 12:14 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-5-28**] 03:20 AM
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **], lido patch, vanco, zosyn, amio, famotidine, verapamil,
   flagyl, nebs prn, lovenox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2191-5-28**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 88 (85 - 120) bpm
   BP: 100/40(53) {76/34(43) - 139/92(99)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  4,037 mL
                                                                    928 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                  2,774 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    463 mL
   Urine:
                                                                  1,180 mL
                                                                    463 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,247 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Thin
   Head, Ears, Nose, Throat: NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: ), upper airway sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed, poorly responsive
   Labs / Radiology
   9.8 g/dL
   400 K/uL
   105 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   29 mg/dL
   97 mEq/L
   137 mEq/L
   30.8 %
   24.9 K/uL
        [image002.jpg]
                             [**2191-5-23**]  03:05 AM
                             [**2191-5-24**]  05:00 AM
                             [**2191-5-25**]  04:55 AM
                             [**2191-5-25**]  09:50 AM
                             [**2191-5-26**]  02:55 AM
                             [**2191-5-26**]  04:51 PM
                             [**2191-5-26**]  08:03 PM
                             [**2191-5-27**]  03:36 AM
                             [**2191-5-27**]  04:51 AM
                             [**2191-5-28**]  05:43 AM
   WBC
   10.7
   10.9
   14.8
   14.4
   16.7
   23.8
   24.9
   Hct
   25.1
   28.8
   26.6
   23.2
   28.0
   28.7
   30.8
   Plt
   362
   402
   439
   382
   349
   387
   400
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.7
   0.6
   TCO2
   40
   34
   Glucose
   109
   101
   120
   105
   118
   138
   105
   Other labs: PT / PTT / INR:12.7/36.3/1.1, ALT / AST:[**8-27**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:87.0 %, Band:1.0 %, Lymph:3.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   LDH:213 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: no new
   Microbiology: no growth
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 PLEURAL EFFUSION, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HIGH RISK FOR FALL
 HYPOXEMIA
 ATRIAL FIBRILLATION (AFIB)
   86F with afib, here with L pna and pleural effusion, s/p chest tube,
   now with hypoxia, respoiratory failure, empiric treatment for PE,
   progressively worsening resporatory failure and poor mental status:
   RESP FAILURE / PNA / HYPOXIA: also concern for pe; has shunt
   -completed course of abx
   -cont anticoagulation
   -cont supplemental O2
   LEUKOCYTOSIS: concern for c.diff
   -recheck c.diff
   -empiric flagyl
   POOR MENTAL STATUS:
   -no invasive work-up because of goal of care
   -considering head ct since on anticoagulation but unlikely to change
   management so will hold off
   GOALS OF CARE: discussed in detail with HCT yesterday;
   -continue supportive care until monday without escalation of care (no
   invasive, no pressors, etc.) until nephew can visit in 2 days
   -morphine if appears uncomfortable
   -dnr/dni
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2191-5-19**] 03:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments: No
   escalation of care
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill